US05015738
1,2-Dihydro-8-(dimethylamino)methylbenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepine
1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin6-thione (4 g) was added to a solution of dimethylaminoacetic hydrazide hydrochloride (2 g) and triethylamine (2.4 ml) in dimethylformamide (25 ml). The mixture was refluxed overnight, cooled, and concentrated under reduced pressure. The residue was purified by high performance liquid chromatography (2.5% methano/dichloromethane). The appropriate fractions were triturated with dry ether to yield 2.4 g (47.2%) of product, mp 164°-165° C.

reactant | 1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin6-thione | 4 g | C1CC2=CC=CC=3C(NC4=C(N1C32)C=CC=C4)=S | C15H12N2S
reactant | dimethylaminoacetic hydrazide hydrochloride | 2 g | Cl.CN(C)CC(=O)NN
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1,2-Dihydro-8-(dimethylamino)methylbenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepine | 2.4 g, 47.2% | CN(C)CC=1C=CC2=C(N3C4=C(C=5N2C=NN5)CCC=C4C=C3)C1 | C19H19N5
